US07732456B2
(1) Preparation of 4-fluoro-3-(methoxymethoxy)benzyl alcohol
Triethylamine (1.07 mL) and methoxymethyl chloride (2.24 mL) were added to tetrahydrofuran (10 mL) solution of 4-fluoro-3-hydroxybenzoic acid (1.0 g), and stirred at 0° C. for 2 hours. Ethyl acetate was added to the reaction liquid which then was washed with water and saturated brine, dried over anhydrous magnesium sulfate, the solvent therein was concentrated under reduced pressure and the residue was dissolved in tetrahydrofuran (20 mL). Lithiumaluminium hydride (360 mg) was added, stirred at 0° C. for an hour, ethyl acetate was added and the insoluble matter was removed, followed by washing with saturated brine and drying over anhydrous magnesium sulfate. Concentrating the solvent under reduced pressure, the title compound (1.14 g, 94%) was obtained.

reactant | Triethylamine | 1.07 mL | C(C)N(CC)CC | C6H15N
reactant | methoxymethyl chloride | 2.24 mL | COCCl | C2H5ClO
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | 4-fluoro-3-hydroxybenzoic acid | 1.0 g | FC1=C(C=C(C(=O)O)C=C1)O | C7H5FO3
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-fluoro-3-(methoxymethoxy)benzyl alcohol | 1.14 g, 94% | FC1=C(C=C(CO)C=C1)OCOC | C9H11FO3
